US07273877B2
Step B: 5-Amino-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester
A solution of 5-nitro-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (4.16 g, 0.0108 mol) in 100 ml of tetrahydrofuran was treated with 1.0 g of sponge nickel catalyst (Activated Metals & Chemicals Co. A-7000, water wet) and hydrogenated in a Parr shaker hydrogenation apparatus (52 to 18 psig, room temperature). After 20 h, the resulting slurry was filtered and the filtrate was returned. Solvent was removed in vacuo to afford a brown oil (4.05 g, 106.6% y). NMR (CDCl3) δ 8.03 (br s, 1H), 7.78 (m, 3H), 7.63 (m,3H), 7.51 (d, J=3.2 Hz, 1H), 7.42 (m, 3H), 7.34 (m, 3H), 7.18 (d, J=8.3 Hz, 1H), 6.49 (d, J=2.3 Hz, 1H), 6.82 (d, J=2.0), 6.66 (dd, J=8.5, 2.2 Hz, 1H), 6.45 (d, J=3.7 Hz, 1H), 6.38 (m, 1H), 4.78 (br s, 2H), 4.43 (t, J=6.3 Hz, 1H), 4.12 (t, J=6.1 HZ, 1H), 4.03 (d, J=0.49 Hz, 2H), 3.76 (t, J=2.4 Hz, 1H), 1.85 (m, 1H). MS 355 [M+H].

reactant | 5-nitro-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 0.0108 mol, 4.16 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C23H16N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | nickel | 1.0 g | [Ni] | Ni
product | 5-Amino-indole-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C=CC2=CC(=CC=C12)N | C23H18N2O2
